US03969370
Using the procedure described in Example 2 using 5 g of 2,4-furandione and 6 g of 1-methylcyclohexylurea there is obtained 3.5 g 1-(1-methylcyclohexyl)-3-(2,5-dihydro-5-oxo-3-furyl)urea, m.p. 183°C. (decomposition).

reactant | 2,4-furandione | 5 g | O1C(CC(C1)=O)=O | C4H4O3
reactant | 1-methylcyclohexylurea | 6 g | CC1(CCCCC1)NC(=O)N | C8H16N2O
product | 1-(1-methylcyclohexyl)-3-(2,5-dihydro-5-oxo-3-furyl)urea | 3.5 g | CC1(CCCCC1)NC(=O)NC=1COC(C1)=O | C12H18N2O3
